US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-Methoxy-propyl)-amide
To a mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.19 mmol), HOBt (31 mg, 1.2 eq.), EDAC.HCl (44 mg, 1.2 eq.) and 3-methoxy-propylamine (42 mg, 1.1 eq.) in DMF (2 mL) was added TEA (0.066 mL, 2.5 eq.). After stirring at rt for 10 days, the reaction was concentrated, diluted with DCM, washed with sat. NaHCO3 and water, concentrated and purified on a silica gel column to give the titled compound as a pale orange waxy solid.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.19 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | HOBt | 31 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 44 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | 3-methoxy-propylamine | 42 mg, 1.1 eq. | COCCCN | C4H11NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-Methoxy-propyl)-amide | COCCCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C27H27Cl2N3O5S
